* INA114 = A1_114 + A2_114 + A3_114 OP AMPS + PRECISION RESISTOR NETWORK
* CREATED ON 1/30/92 AT 4:30PM
* REV.A
*  ------------------------------------------------------------------------ 
* |  NOTICE: THE INFORMATION PROVIDED HEREIN IS BELIEVED TO BE RELIABLE;   |
* |  HOWEVER; BURR-BROWN ASSUMES NO RESPONSIBILITY FOR INACCURACIES OR     |
* |  OMISSIONS.  BURR-BROWN ASSUMES NO RESPONSIBILITY FOR THE USE OF THIS  |
* |  INFORMATION, AND ALL USE OF SUCH INFORMATION SHALL BE ENTIRELY AT     |
* |  THE USER'S OWN RISK.  NO PATENT RIGHTS OR LICENSES TO ANY OF THE      |
* |  CIRCUITS DESCRIBED HEREIN ARE IMPLIED OR GRANTED TO ANY THIRD PARTY.  |
* |  BURR-BROWN DOES NOT AUTHORIZE OR WARRANT ANY BURR-BROWN PRODUCT FOR   |
* |  USE IN LIFE-SUPPORT DEVICES AND/OR SYSTEMS.                           |
*  ------------------------------------------------------------------------ 
* 
* NOTE:  THE OUTPUT PERFORMANCE OF THIS MACRO MODEL WILL BE ERRONEOUS IF
*        NODE 6 (FEEDBACK) IS NOT CONNECTED PROPERLY.
*
*
***** INA114 SUB-CIRCUIT
* CONNECTIONS:    NON-INVERTING INPUT
*                 |   INVERTING INPUT
*                 |   |   POSITIVE POWER SUPPLY
*                 |   |   |   NEGATIVE POWER SUPPLY
*                 |   |   |   |   OUTPUT
*                 |   |   |   |   |   FEEDBACK
*                 |   |   |   |   |   |    REFERENCE
*                 |   |   |   |   |   |   |   GAIN SET 1
*                 |   |   |   |   |   |   |   |   GAIN SET 2
*                 |   |   |   |   |   |   |   |   |
.SUBCKT INA114    1   2   3   4   5   6   
+                                      100
+                                         8   9   10

*
***** A1_114 SUBCIRCUIT
* CONNECTIONS:    NON-INVERTING INPUT
*                 |   INVERTING INPUT
*                 |   |   POSITIVE POWER SUPPLY
*                 |   |   |   NEGATIVE POWER SUPPLY
*                 |   |   |   |   OUTPUT
*                 |   |   |   |   |
X1                2   9   3   4   11   A1_114

*
* CONNECTIONS:    NON-INVERTING INPUT
*                 |   INVERTING INPUT
*                 |   |   POSITIVE POWER SUPPLY
*                 |   |   |   NEGATIVE POWER SUPPLY
*                 |   |   |   |   OUTPUT
*                 |   |   |   |   |
X2                1   10  3   4   12   A2_114

*
* CONNECTIONS:    NON-INVERTING INPUT
*                 |   INVERTING INPUT
*                 |   |   POSITIVE POWER SUPPLY
*                 |   |   |   NEGATIVE POWER SUPPLY
*                 |   |   |   |   OUTPUT
*                 |   |   |   |   |
X3                14  13  3   4   5   A3_114

*
R1 11 13 25K
R2 13 6 24.9985K
C2 13 6 5P
R3 12 14 25K
R4 14 8 25K
RFB1 9 11 25K
CC1 9 11 5P
RFB2 10 12 25K
CC2 10 12 5P
*

.ENDS

*

* A1_114 OPERATIONAL AMPLIFIER " MACROMODEL" SUBCIRCUIT

* CREATED USING PARTS RELEASE 5.0 ON 1/22/92 AT 13:21

*

* CONNECTIONS:   NON-INVERTING INPUT

*                | INVERTING INPUT

*                | | POSITIVE POWER SUPPLY

*                | | | NEGATIVE POWER SUPPLY

*                | | | | OUTPUT

*                | | | | |

.SUBCKT A1_114   1 2 3 4 5

*

C1 11 12 6.060E-12

C2 6 7 30.00E-12

DC 5 53 DX

DE 54 5 DX

DLP 90 91 DX

DLN 92 90 DX

DP 4 3 DX

EGND 99 0 POLY(2) (3,0) (4,0) 0 .5 .5

FB 7 99 POLY(5) VB VC VE VLP VLN 0 165.8E6 -20E6 20E6 20E6 -20E6

GA 6 0 11 12 188.5E-6

GCM 0 6 10 99 188.5E-12

IEE 10 4 DC 27E-6

HLIM 90 0 VLIM 1K

Q1 11 2 13 QX

Q2 12 1 14 QX

R2 6 9 100.0E3

RC1 3 11 5.305E3

RC2 3 12 5.305E3

RE1 13 10 4.348E3

RE2 14 10 4.348E3

REE 10 99 7.4074E6

RO1 8 5 40

RO2 7 99 320

RP 3 4 52.53E3

VB 9 0 DC 0

VC 3 53 DC 1.672

VE 54 4 DC 1.672

VLIM 7 8 DC 0

VLP 91 0 DC 2

VLN 0 92 DC 2

.MODEL DX D(IS=800.0E-18)

.MODEL QX NPN(IS=800.0E-18 BF=36.00E3)

.ENDS

*

* A2_114 OPERATIONAL AMPLIFIER " MACROMODEL" SUBCIRCUIT

* CREATED USING PARTS RELEASE 5.0 ON 1/22/92 AT 13:30

*

* CONNECTIONS:   NON-INVERTING INPUT

*                | INVERTING INPUT

*                | | POSITIVE POWER SUPPLY

*                | | | NEGATIVE POWER SUPPLY

*                | | | | OUTPUT

*                | | | | |

.SUBCKT A2_114   1 2 3 4 5

*

C1 11 12 6.060E-12

C2 6 7 30.00E-12

DC 5 53 DX

DE 54 5 DX

DLP 90 91 DX

DLN 92 90 DX

DP 4 3 DX

EGND 99 0 POLY(2) (3,0) (4,0) 0 .5 .5

FB 7 99 POLY(5) VB VC VE VLP VLN 0 165.8E6 -20E6 20E6 20E6 -20E6

GA 6 0 11 12 188.5E-6

GCM 0 6 10 99 188.5E-12

IEE 10 4 DC 27E-6

HLIM 90 0 VLIM 1K

Q1 11 2 13 QX

Q2 12 1 14 QX

R2 6 9 100.0E3

RC1 3 11 5.305E3

RC2 3 12 5.305E3

RE1 13 10 4.318E3

RE2 14 10 4.348E3

REE 10 99 7.4074E6

RO1 8 5 40

RO2 7 99 320

RP 3 4 52.53E3

VB 9 0 DC 0

VC 3 53 DC 1.672

VE 54 4 DC 1.672

VLIM 7 8 DC 0

VLP 91 0 DC 2

VLN 0 92 DC 2

.MODEL DX D(IS=800.0E-18)

.MODEL QX NPN(IS=800.0E-18 BF=36.00E3)

.ENDS

*

* A3_114 OPERATIONAL AMPLIFIER " MACROMODEL" SUBCIRCUIT

* CREATED USING PARTS RELEASE 5.0 ON 1/22/92 AT 13:46

*

* CONNECTIONS:   NON-INVERTING INPUT

*                | INVERTING INPUT

*                | | POSITIVE POWER SUPPLY

*                | | | NEGATIVE POWER SUPPLY

*                | | | | OUTPUT

*                | | | | |

.SUBCKT A3_114   1 2 3 4 5

*

C1 11 12 13.51E-12

C2 6 7 30.00E-12

DC 5 53 DX

DE 54 5 DX

DLP 90 91 DX

DLN 92 90 DX

DP 4 3 DX

EGND 99 0 POLY(2) (3,0) (4,0) 0 .5 .5

FB 7 99 POLY(5) VB VC VE VLP VLN 0 251.9E6 -30E6 30E6 30E6 -30E6

GA 6 0 11 12 339.3E-6

GCM 0 6 10 99 339.3E-12

IEE 10 4 DC 18E-6

HLIM 90 0 VLIM 1K

Q1 11 2 13 QX

Q2 12 1 14 QX

R2 6 9 100.0E3

RC1 3 11 2.947E3

RC2 3 12 2.947E3

RE1 13 10 74.778

RE2 14 10 74.778

REE 10 99 11.111E6

RO1 8 5 13

RO2 7 99 117

RP 3 4 30.123E3

VB 9 0 DC 0

VC 3 53 DC 1.972

VE 54 4 DC 1.972

VLIM 7 8 DC 0

VLP 91 0 DC 12

VLN 0 92 DC 12

.MODEL DX D(IS=800.0E-18)

.MODEL QX NPN(IS=800.0E-18 BF=30.00E3)

.ENDS
